US05051422
N-(3-Bromo-5-methoxyphenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide
In a manner similar to Preparation 12, react N-(3-bromo-5-methoxyphenyl)-2-chloroacetamide with 3,4-dimethoxybenzenemethanamine to obtain the title compound.

reactant | N-(3-bromo-5-methoxyphenyl)-2-chloroacetamide | BrC=1C=C(C=C(C1)OC)NC(CCl)=O | C9H9BrClNO2
reactant | 3,4-dimethoxybenzenemethanamine | COC=1C=C(C=CC1OC)CN | C9H13NO2
product | N-(3-Bromo-5-methoxyphenyl)-2-[[(3,4-dimethoxyphenyl)methyl]amino]acetamide | BrC=1C=C(C=C(C1)OC)NC(CNCC1=CC(=C(C=C1)OC)OC)=O | C18H21BrN2O4
